US05698494
N-[4-Chloro-3-(2-chloro-2-ethoxycarbonylethenyl)phenyl]-3-methylglutaric acid imide (compound 1.1)
A solution of 2.8 g of N-[4-chloro-3-(2-chloro-2-ethoxycarbonylethenyl)phenyl]-3-methylglutaric acid monoamide and 0.1 g of sodium acetate in 50 ml of acetic anhydride was stirred at 95° C. for 2 h. The solvent was then removed. After dissolving the residue in 150 ml of dichloromethane, it was washed with sodium hydrogen-carbonate solution, water and sodium chloride solution, dried and concentrated in vacuo. The residue which remained was crystallized using petroleum ether, and the crystals were removed and dried. Yield: 2.1 g; m.p.: 82°-84° C.

reactant | N-[4-chloro-3-(2-chloro-2-ethoxycarbonylethenyl)phenyl]-3-methylglutaric acid monoamide | 2.8 g | ClC1=C(C=C(C=C1)NC(CC(CC(=O)O)C)=O)C=C(C(=O)OCC)Cl | C17H19Cl2NO5
reactant | sodium acetate | 0.1 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-[4-Chloro-3-(2-chloro-2-ethoxycarbonylethenyl)phenyl]-3-methylglutaric acid imide | ClC1=C(C=C(C=C1)N1C(CC(CC1=O)C)=O)C=C(C(=O)OCC)Cl | C17H17Cl2NO4
